US04960775
A stirred solution of phthalazine (3.25 g) and trimethylsilylcyanide (4.96 g) in dichloromethane (40 ml), containing a catalytic amount of anhydrous aluminium chloride (10 mg), was treated dropwise with isobutyryl chloride (5.3 g), keeping the temperature of the mixture below 32° C. The mixture was then stirred at the ambient temperature for 18 hours and then it was washed successively with water (50 ml), aqueous hydrochloric acid (1N; 2×30 ml), water (50 ml), aqueous sodium hydroxide solution (1N; 2×30 ml) and water (50 ml) and then it was dried over magnesium sulphate. The solution was evaporated and the resulting residue was triturated with a mixture of petroleum ether (b.p. 40°-60° C.) and diethyl ether (3:1 v/v; 30 ml). The solid which separated was collected and dried, to give 1-cyano-2-isobutyryl-1,2-dihydrophthalazine (5.56 g) in the form of a colourless solid, m.p. 144°-146° C. [Elemental analysis: C, 68.9; H, 5.61; N, 18.4%; calculated: C, 68.7; H, 5.77; N, 18.5%; NMR (in CDCl3): 1.16 (3H, d, J=7 Hz), 1.27 (3H, d, J=7 Hz), 3.55 (1H, septet, J=7 Hz), 6.66 (1H, s), 7.36-7.44 (2H, m), 7.50-7.58 (2H, m), 7.73 (1H, s); Mass spectrum (electron impact) m/z=227].

reactant | phthalazine | 3.25 g | C1=NN=CC2=CC=CC=C12 | C8H6N2
reactant | trimethylsilylcyanide | 4.96 g | C[Si](C)(C)C#N | C4H9NSi
reactant | isobutyryl chloride | 5.3 g | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
catalyst | aluminium chloride | 10 mg | [Cl-].[Al+3].[Cl-].[Cl-]
product | 1-cyano-2-isobutyryl-1,2-dihydrophthalazine | 5.56 g | C(#N)C1N(N=CC2=CC=CC=C12)C(C(C)C)=O | C13H13N3O
